US08623889B2
Step 1: 1-(5-chloro-2-fluorophenyl)propan-1-ol
To a solution of 5-chloro-2-fluorobenzaldehyde (1 g, 6.3 mmol) in diethyl ether (20 mL) cooled at −78° C. was added a solution of 3.0M ethylmagnesium bromide in ether (4.2 mL, 13 mmol) dropwise over 5 minutes. The reaction mixture was warmed to 0° C. and after 30 minutes was quenched with a few drops of saturated aqueous ammonium chloride solution. The reaction mixture was diluted with ethyl acetate (50 mL) and washed with water (50 mL). The organic layer was separated, dried over sodium sulfate, filtered, and evaporated in vacuo to afford a residue that was purified by flash chromatography (silica, 4 g, ISCO, 0-30% ethyl acetate in heptane) to afford the title compound as a pale yellow oil (850 mg, 71%), which was used in the next step without further purification.

reactant | 5-chloro-2-fluorobenzaldehyde | 6.3 mmol, 1 g | ClC=1C=CC(=C(C=O)C1)F | C7H4ClFO
reactant | ethylmagnesium bromide | 3.0M | C(C)[Mg]Br
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
solvent | ether | 13 mmol, 4.2 mL | CCOCC | C4H10O
product | 1-(5-chloro-2-fluorophenyl)propan-1-ol | 850 mg, 71% | ClC=1C=CC(=C(C1)C(CC)O)F | C9H10ClFO
